US05134111
(g) Preparation of 4-acetoxy-3-isopropyl-5-methyl-1-naphthalenecarbaldehyde
0.7 g of 3-isopropyl-4-hydroxy-5-methyl-1-naphthalenecarbaldehyde and 10 ml of acetic anhydride were dissolved in 10 ml of pyridine and reacted at room temperature for 1 hour. The reaction solution was poured into water and extracted with ethyl acetate. The organic phase was washed with dilute hydrochloric acid, a saturated sodium hydrogencarbonate aqueous solution and a saturated saline solution in this order, dried with anhydrous magnesium sulfate and concentrated under reduced pressure, thereby obtaining 0.5 g of the captioned compound as a black oily substances.

reactant | 3-isopropyl-4-hydroxy-5-methyl-1-naphthalenecarbaldehyde | 0.7 g | C(C)(C)C=1C=C(C2=CC=CC(=C2C1O)C)C=O | C15H16O2
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 4-acetoxy-3-isopropyl-5-methyl-1-naphthalenecarbaldehyde | 0.5 g | C(C)(=O)OC1=C(C=C(C2=CC=CC(=C12)C)C=O)C(C)C | C17H18O3
